### PR TITLE
flesh out sort.v

### PR DESCRIPTION
**Pull request by Nielius**
This does quite a few things, but mainly:

- rename some `_assoc` properties to `_trans` (they are actually transitivity, not associativity; this is the least important change :p)
- make the inductive predicate definition of `is_sorted` the default
- prove a verified decision procedure for `is_sorted` (this is like a beefed-up version of the original `is_sort`)
- prove that our definition of `is_sorted` is the same as saying that for every pair of elements in a list, the element that comes first in the list is not larger than the element that comes later. (This is `Theorem is_sorted_via_indices`)

It's not the nicest code, but there are some interesting ideas, I think.

### CODE REVIEW

**Comment by Nielius** [comment]
The build is failing, so I'lll have too make a few changes first.

File: src/simple.v [hunk 1]
```diff
@@ -37,9 +37,6 @@ induction r, s; simpl; try easy.
     simpl in Heqc.
     rewrite <- Heqc.
     firstorder.
-    (* Locate "<>". *)
-    unfold Logic.not.
-    discriminate.
```
Comment (Nielius) [inline src/simple.v:42]: I don't understand why I could (actually, had to) remove these lines.

Maybe `firstorder` became slightly more powerful because of the changes I made?

File: src/comparable.v [hunk 2]
```diff
@@ -42,6 +43,10 @@ Ltac compare_to_eq :=
     let Heq := fresh "Heq"
     in apply proof_compare_eq_is_equal in H_Eq_Compare as Heq;
        try (rewrite Heq)
+  | [ H_Eq_Compare : ?Compare = Eq |- _ ] =>
```
Comment (awalterschulze) [inline src/comparable.v:46]: nice

File: src/comparable.v [hunk 3]
```diff
@@ -221,3 +226,23 @@ Fixpoint comparable_list {A: Type} {cmp: comparable A} (xs: list A) (ys: list A)
           end
       end
   end.
+
+
+Definition compare_leq {A: Type} {cmp: comparable A} (x y: A) : Prop :=
```
Comment (awalterschulze) [inline src/comparable.v:231]: This is a good one to have.

File: src/simple.v (hunk 1 above)
Comment (awalterschulze) [reply src/simple.v:42]: I think you have to be right.

File: src/sort.v [hunk 4]
```diff
@@ -3,55 +3,52 @@ Set Asymmetric Patterns.
...
 
 (* is_sorted is a property that says whether a list is sorted *)
-Fixpoint is_sorted {A: Type} {cmp: comparable A} (xs: list A) : Prop :=
+Inductive is_sorted {A: Type} {cmp: comparable A} : list A -> Prop :=
+  | empty_sorted : is_sorted nil
+  | singleton_sorted (x: A) : is_sorted (x :: nil)
+  | tail_sorted
+    (x: A)
+    (y: A)
+    (c : compare x y = Lt \/ compare x y = Eq)
```
Comment (awalterschulze) [inline src/sort.v:18]: Can't you use compare_leq here?

File: src/sort.v [hunk 5]
```diff
@@ -71,27 +68,41 @@ Inductive is_sorted'' {A: Type} {cmp: comparable A} : list A -> Prop :=
...
   (x: A)
   (xs: list A),
   is_sorted (x :: xs) -> is_sorted xs.
 Proof.
-(* TODO: Good First Issue 
-   By Admitting this we previously let a bug slip through
-*)
-Admitted.
+  intros.
+  inversion H; subst; (constructor || assumption).
```
Comment (awalterschulze) [inline src/sort.v:80]: Wow that is short

File: src/sort.v [hunk 6]
```diff
@@ -71,27 +68,41 @@ Inductive is_sorted'' {A: Type} {cmp: comparable A} : list A -> Prop :=
...
+Lemma tail_of_is_sortedb_is_sortedb:
   forall {A: Type}
   {cmp: comparable A}
   (x: A)
   (xs: list A),
-  is_sorted' (x :: xs) -> is_sorted' xs.
+  is_sortedb (x :: xs) -> is_sortedb xs.
 Proof.
 (* TODO: Good First Issue *)
-Admitted.
```
Comment (awalterschulze) [inline src/sort.v:94]: I the comment
"By Admitting this we previously let a bug slip through"
should move here, since you swapped predicate/definition names, right?

File: src/sort.v [hunk 7]
```diff
@@ -101,52 +112,538 @@ Lemma tail_of_is_sorted''_is_sorted'':
...
+      match goal with
+      | [H: is_sorted (?x0 :: ?xs) , Hcon: ~(is_sorted ?xs)  |- False ]
+        => apply Hcon; apply tail_of_is_sorted_is_sorted with (x := x0); exact H
+      end.
+
+    (* If there is a pair of hypotheses
+          compare ?x0 ?x1 = Gt   and   compare ?x0 ?x1 = Lt (or = Eq)
+       then this tactic derives a contradiction.
+     *)
+    Local Ltac contradiction_from_compares :=
```
Comment (awalterschulze) [inline src/sort.v:172]: Maybe this is a nice tactic to make more reusable and move to compare.v

File: src/sort.v [hunk 8]
```diff
@@ -101,52 +112,538 @@ Lemma tail_of_is_sorted''_is_sorted'':
...
+  Defined.
+End certified_decision_procedure.
+
+Section lemmas.
+  Context {A: Type}.
+  Context {cmp: comparable A}.
+
+  Lemma is_sortedb_reverse_direction (x y : A) (xs : list A):
+    is_sortedb (x::y::xs) ->
+    (compare x y = Lt \/ compare x y = Eq) /\ (is_sortedb (y::xs)).
```
Comment (awalterschulze) [inline src/sort.v:222]: What about using compare_leq here again?

File: src/sort.v (hunk 7 above)
Comment (awalterschulze) [reply src/sort.v:172]: I wonder how much subst would help here?
But I guess subst, which be too big of a hammer.

File: src/sort.v [hunk 9]
```diff
@@ -101,52 +112,538 @@ Lemma tail_of_is_sorted''_is_sorted'':
...
+      + contradiction.
+    - fold (is_sortedb (y::xs)) in H.
+      destruct (compare x y); (assumption || contradiction).
+  Qed.
+End lemmas.
+
+Theorem is_sorted_and_is_sortedb_are_equivalent : forall {A: Type} {cmp: comparable A} (xs: list A),
+  is_sorted xs <-> is_sortedb xs.
+Proof.
+Hint Unfold is_sortedb. (* TODO: deprecated *)
```
Comment (awalterschulze) [inline src/sort.v:239]: What does this TODO mean?

File: src/comparable.v (hunk 3 above)
Comment (aymanosman) [reply src/comparable.v:231]: I would like an explanation of `comparable`, maybe next time we meet. Also, I wonder if Typeclasses would be useful here, this is like an `Ord A` instance (from Haskell), I know coq has a similar concept.

File: src/sort.v [hunk 10]
```diff
@@ -101,52 +112,538 @@ Lemma tail_of_is_sorted''_is_sorted'':
...
+
+  Definition get_recursion_helper_dec (n : nat) (x : A) (xs : list A):
+    (S n < length (x :: xs)) -> (n < length xs) :=
+    fun (H : S n < length (x :: xs)) => Lt.lt_S_n n (length xs) H.
+
+  Definition get_recursion_helper_inc (n : nat) (x : A) (xs : list A):
+    (n < length xs) -> (S n < length (x :: xs)) :=
+    fun (H : n < length (xs)) => Lt.lt_n_S n (length xs) H.
+
+  Local Ltac not_exist_hyp t :=
```
Comment (awalterschulze) [inline src/sort.v:297]: Maybe this tactic can have a comment to explain what it does?

File: src/sort.v [hunk 11]
```diff
@@ -101,52 +112,538 @@ Lemma tail_of_is_sorted''_is_sorted'':
...
+  Local Ltac assert_if_not_exist H :=
+    not_exist_hyp H; assert H.
+
+  Local Ltac get_proof_recursion_helpers :=
+    match goal with
+    | H: (S ?n < length (?x :: ?xs)) |- _
+      => assert_if_not_exist (n < length(xs)); try exact (@get_recursion_helper_dec n x xs H)
+    end.
+
+  Lemma length_nil {Y: Set}:
```
Comment (awalterschulze) [inline src/sort.v:311]: I think we need a package with just proofs for lists.
I have also needed a bunch and the list package itself has very little.

Comment (awalterschulze) [reply src/sort.v:311]: I think lots of your and my proofs can then move into this list package.

File: src/sort.v [hunk 12]
```diff
@@ -101,52 +112,538 @@ Lemma tail_of_is_sorted''_is_sorted'':
...
+      nat_smaller_than_length_nil.
+    - destruct n.
+      + (* if n = 0, return the first element *)
+        exact x0.
+      + (* otherwise, recurse *)
+        exact (get xs' (exist _ n (get_recursion_helper_dec pf))).
+  Defined.
+
+  (* Alternative definition, using std lib *)
+  Definition get' (xs: list A): { n: nat | n < (length xs)} -> A.
```
Comment (awalterschulze) [inline src/sort.v:353]: I am very surprised that this is so hard.
I have struggled with this in past as well and I gave up.
Well done.

File: src/sort.v [hunk 13]
```diff
@@ -101,52 +112,538 @@ Lemma tail_of_is_sorted''_is_sorted'':
...
+
+      + get_proof_recursion_helpers_rewrite.
+
+        cbn.
+        apply IHxs'.
+        cbn in assum.
+        lia.
+  Qed.
+
+  Theorem is_sorted_via_indices (xs: list A):
```
Comment (awalterschulze) [inline src/sort.v:483]: WOW

File: src/comparable.v (hunk 3 above)
Comment (awalterschulze) [reply src/comparable.v:231]: comparable is a typeclass, we just made our own, see line 6 of this file.

We can definitely discuss replacing it with a more standard Coq version,
but at the time of creating the comparable class, I was not in a position where I could read it.

**Comment by awalterschulze** [comment]
This is really great work.
Sorry it took me so long to review.

File: src/comparable.v (hunk 3 above)
Comment (Nielius) [reply src/comparable.v:231]: Yeah, I'm also not entirely sure how typeclasses work yet.

I think defining our own `comparable` was a nice exercise, but it would probably be better to use a more standard Coq version in the end.

File: src/sort.v (hunk 4 above)
Comment (Nielius) [reply src/sort.v]: Yes, I've been a bit lazy. I've pushed a [new commit](https://github.com/awalterschulze/regex-reexamined-coq/commit/fa4fad12f2ea74c2730aa475ed88a7faf192e1af).

File: src/sort.v (hunk 6 above)
Comment (Nielius) [reply src/sort.v:94]: Yes, good point.

File: src/sort.v (hunk 7 above)
Comment (Nielius) [reply src/sort.v:170]: Yes, I think it's a good idea to move it to compare.v.

Re the other question: `subst` is not enough, unfortunately and surprisingly. I actually use `subst` in several places before applying the tactic.

The reason: after applying `subst` my context still looks like e.g.

```
  e : compare x0 x1 = Gt
....
  H0 : compare x0 x1 = Eq
```

I don't know why `subst` doesn't replace these two.

File: src/sort.v (hunk 8 above)
Comment (Nielius) [reply src/sort.v]: Yep, good catch.

File: src/sort.v (hunk 7 above)
Comment (Nielius) [reply src/sort.v:170]: But I'll do the move and generalisation in another PR if that's okay (because I've already been extending it in another branch).

File: src/sort.v (hunk 9 above)
Comment (Nielius) [reply src/sort.v:239]: It's a warning that Coq gives:

```
Warning: Adding and removing hints in the core database implicitly is deprecated.
Please specify a hint database. [implicit-core-hint-db,deprecated]
```

Related to https://github.com/coq/coq/pull/8987 and https://github.com/coq/coq/issues/10559

From what I understand after a quick look at those links, if you don't specify the database, it's added to the core database, and then it can accidentally end up in the core databases for any files that import it.

File: src/sort.v (hunk 10 above)
Comment (Nielius) [reply src/sort.v:299]: Yes, good idea. I actually took it from https://github.com/coq/coq/wiki/TacticExts#assert-if-necessary (which I'll also add to the comment).
(It adds a hypothesis only if it's not there yet.)

File: src/sort.v (hunk 11 above)
Comment (Nielius) [reply src/sort.v:313]: Good idea.

File: src/sort.v (hunk 7 above)
Comment (awalterschulze) [reply src/sort.v:172]: Sounds like a plan :)

File: src/sort.v (hunk 12 above)
Comment (Nielius) [reply src/sort.v:355]: Yeah, you'd think there is something to this effect that's readily available from the standard library.

But the closest I've found is this:

```
     Parameter nth_In :
       forall (A : Type) (n : nat) (l : list A) (d : A),
       n < length l -> In (nth n l d) l.
```

(Note that `nth n l d` means: take the `n`th element from the list `l`; if it doesn't exist (because the index is out of range), return the default element `d`. But that means you always have to provide this annoying default element.)

Comment (Nielius) [reply src/sort.v:355]: This is also related (in the standard library):

```
     Parameter nth_indep :
       forall (A : Type) (l : list A) (n : nat) (d d' : A),
       n < length l -> nth n l d = nth n l d'.

     Parameter nth_error_None :
       forall (A : Type) (l : list A) (n : nat),
       nth_error l n = None <-> length l <= n.
     Parameter nth_error_Some :
       forall (A : Type) (l : list A) (n : nat),
       nth_error l n <> None <-> n < length l.
```

So maybe I could actually rewrite it with these two.

Comment (awalterschulze) [reply src/sort.v:358]: Yes providing a default element is something I was able to do before having the power of dependent types.  This being in the standard library, seems very weird.

**Comment by Nielius** [comment]
> This is really great work.
> Sorry it took me so long to review.

Thanks for reviewing, Walter. I made a few changes.

File: src/sort.v (hunk 12 above)
Comment (awalterschulze) [reply src/sort.v:358]: Think what you have here is closer to a standard library for lists that I would expect to have.

**Comment by awalterschulze** [comment]
Looks ready to merge :)

**Comment by awalterschulze** [comment]
I am going to merge to make streaming easier.
Other comments, if there are left, can be addressed in a following pull request, as discussed before.
